### PR TITLE
[Merged by Bors] - feat(Data/Matroid/Circuit): Matroid circuits

### PR DESCRIPTION
**Pull request by apnelson1**
We define and give basis API for circuits (minimal dependent sets) in matroids. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Circuit.lean [hunk 1]
```diff
@@ -0,0 +1,173 @@
...
+# Matroid Circuits
+
+A `Circuit` of a matroid `M` is a minimal set `C` that is dependent in `M`.
+A matroid is determined by its set of circuits, and often the circuits
+offer a more compact description of a matroid than the collection of independent sets or bases.
+In matroids arising from graphs, circuits correspond to graphical cycles.
+
+# Main Declarations
+
+* `Matroid.Circuit C` means that `C` is minimally dependent in `M`.
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Matroid/Circuit.lean:18]:
```suggestion
* `Matroid.Circuit M C` means that `C` is minimally dependent in `M`.
```

File: Mathlib/Data/Matroid/Circuit.lean [hunk 2]
```diff
@@ -0,0 +1,173 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Peter Nelson
+-/
+import Mathlib.Data.Matroid.Closure
+
+/-!
+# Matroid Circuits
+
+A `Circuit` of a matroid `M` is a minimal set `C` that is dependent in `M`.
+A matroid is determined by its set of circuits, and often the circuits
```
Comment (AntoineChambert-Loir) [inline Mathlib/Data/Matroid/Circuit.lean:12]: Is this already formalized?

File: Mathlib/Data/Matroid/Circuit.lean [hunk 3]
```diff
@@ -0,0 +1,173 @@
...
+variable {α : Type*} {M : Matroid α} {C C' I X Y R : Set α} {e f x y : α}
+
+open Set
+
+namespace Matroid
+
+/-- A `Circuit` of `M` is a minimal dependent set in `M` -/
+def Circuit (M : Matroid α) := Minimal M.Dep
+
+lemma circuit_def : M.Circuit C ↔ Minimal M.Dep C := Iff.rfl
```
Comment (qawbecrdtey) [inline Mathlib/Data/Matroid/Circuit.lean:30]:
```suggestion
def Circuit (M : Matroid α) :=
    Minimal M.Dep

lemma circuit_def : M.Circuit C ↔ Minimal M.Dep C :=
    Iff.rfl
```

File: Mathlib/Data/Matroid/Circuit.lean [hunk 4]
```diff
@@ -0,0 +1,173 @@
...
+  hC.dep.subset_ground
+
+lemma Circuit.nonempty (hC : M.Circuit C) : C.Nonempty :=
+  hC.dep.nonempty
+
+lemma empty_not_circuit (M : Matroid α) : ¬M.Circuit ∅ :=
+  fun h ↦ by simpa using h.nonempty
+
+lemma circuit_iff : M.Circuit C ↔ M.Dep C ∧ ∀ ⦃I⦄, M.Dep I → I ⊆ C → I = C := by
+  simp_rw [circuit_def, minimal_subset_iff, eq_comm (a := C)]
```
Comment (qawbecrdtey) [inline Mathlib/Data/Matroid/Circuit.lean:52]: Maybe `C'`, `D`, or `X` should be better than `I`?

File: Mathlib/Data/Matroid/Circuit.lean [hunk 5]
```diff
@@ -0,0 +1,173 @@
...
+  exact ⟨mem_ground_of_mem_closure he, h f hfI⟩
+
+lemma Indep.insert_circuit_of_forall_of_nontrivial (hI : M.Indep I) (hInt : I.Nontrivial)
+    (he : e ∈ M.closure I) (h : ∀ f ∈ I, e ∉ M.closure (I \ {f})) : M.Circuit (insert e I) := by
+  refine hI.insert_circuit_of_forall (fun heI ↦ ?_) he h
+  obtain ⟨f, hf, hne⟩ := hInt.exists_ne e
+  exact h f hf (mem_closure_of_mem' _ (by simp [heI, hne.symm]))
+
+lemma Circuit.diff_singleton_basis (hC : M.Circuit C) (he : e ∈ C) : M.Basis (C \ {e}) C := by
+  nth_rw 2 [← insert_eq_of_mem he];
```
Comment (qawbecrdtey) [inline Mathlib/Data/Matroid/Circuit.lean:107]:
```suggestion
  nth_rw 2 [← insert_eq_of_mem he]
```

File: Mathlib/Data/Matroid/Circuit.lean (hunk 2 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:12]: Yes, but currently just in my repo. It should be part of the next PR, so I thought that including the comment made sense as some general motivation for the notion of a circuit.

Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:12]: (I'm assuming by 'this' you are referring to the implied extensionality statement)

File: Mathlib/Data/Matroid/Circuit.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:30]: I usually put definitions and `rfl/Iff.rfl` proofs on a single line if possible, and this is compatible with the current style guide.

**Review by qawbecrdtey — APPROVED** [review]

File: Mathlib/Data/Matroid/Circuit.lean [hunk 6]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma Circuit.closure_diff_singleton_eq (hC : M.Circuit C) (e : α) :
+    M.closure (C \ {e}) = M.closure C :=
+  (em (e ∈ C)).elim
+    (fun he ↦ by rw [(hC.diff_singleton_basis he).closure_eq_closure])
+    (fun he ↦ by rw [diff_singleton_eq_self he])
+
+lemma Circuit.subset_closure_diff_singleton (hC : M.Circuit C) (e : α) :
+    C ⊆ M.closure (C \ {e}) := by
+  by_cases he : e ∈ C
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:140]: It seems like either this or the previous should be easy to prove in terms of the other?

File: Mathlib/Data/Matroid/Circuit.lean [hunk 7]
```diff
@@ -0,0 +1,173 @@
...
+
+lemma Circuit.ssubset_indep (hC : M.Circuit C) (hXC : X ⊂ C) : M.Indep X := by
+  rw [← not_dep_iff (hXC.subset.trans hC.subset_ground)]
+  exact fun h ↦ hXC.ne ((circuit_iff.1 hC).2 h hXC.subset)
+
+lemma Circuit.diff_singleton_indep (hC : M.Circuit C) (he : e ∈ C) : M.Indep (C \ {e}) :=
+  hC.ssubset_indep (diff_singleton_sSubset.2 he)
+
+lemma circuit_iff_forall_ssubset : M.Circuit C ↔ M.Dep C ∧ ∀ ⦃I⦄, I ⊂ C → M.Indep I := by
+  simp_rw [circuit_iff, dep_iff, and_congr_right_iff, ssubset_iff_subset_ne, and_imp]
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:62]: This lemma looks like it ought to be generalised to something else: `M` is `Minimal P` iff `P M` and for every strict subset C of M, `P C` fails... And then this lemma should be one line in terms of that

File: Mathlib/Data/Matroid/Circuit.lean [hunk 8]
```diff
@@ -0,0 +1,173 @@
...
+  hC.eq_of_not_indep_subset hX.not_indep hXC
+
+lemma Circuit.not_ssubset (hC : M.Circuit C) (hC' : M.Circuit C') : ¬C' ⊂ C :=
+  fun h' ↦ h'.ne (hC.eq_of_dep_subset hC'.dep h'.subset)
+
+lemma Circuit.eq_of_subset_circuit (hC : M.Circuit C) (hC' : M.Circuit C') (h : C ⊆ C') : C = C' :=
+  hC'.eq_of_dep_subset hC.dep h
+
+lemma circuit_iff_dep_forall_diff_singleton_indep :
+    M.Circuit C ↔ M.Dep C ∧ ∀ e ∈ C, M.Indep (C \ {e}) := by
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:83]: I'd expect a similar general Minimal lemma would be useful here too

File: Mathlib/Data/Matroid/Circuit.lean [hunk 9]
```diff
@@ -0,0 +1,173 @@
...
+    (fun he ↦ by rw [(hC.diff_singleton_basis he).closure_eq_closure])
+    (fun he ↦ by rw [diff_singleton_eq_self he])
+
+lemma Circuit.subset_closure_diff_singleton (hC : M.Circuit C) (e : α) :
+    C ⊆ M.closure (C \ {e}) := by
+  by_cases he : e ∈ C
+  · rw [(hC.diff_singleton_basis he).closure_eq_closure]; exact M.subset_closure _
+  rw [diff_singleton_eq_self he]; exact M.subset_closure _
+
+lemma Circuit.subset_closure_diff_subsingleton (hC : M.Circuit C) {Z : Set α}
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:144]: Are this one and the below useful in your applications? My expectation is that since they only apply in the empty or singleton case, either the two immediately preceding lemmas or just `simp` suffice instead... But I could be wrong

File: Mathlib/Data/Matroid/Circuit.lean [hunk 10]
```diff
@@ -0,0 +1,173 @@
...
+-/
+
+variable {α : Type*} {M : Matroid α} {C C' I X Y R : Set α} {e f x y : α}
+
+open Set
+
+namespace Matroid
+
+/-- A `Circuit` of `M` is a minimal dependent set in `M` -/
+def Circuit (M : Matroid α) := Minimal M.Dep
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:28]:
```suggestion
def IsCircuit (M : Matroid α) : Prop := Minimal M.Dep
```
Since this is a propositional statement, a name like `IsCircuit` would be more typical

File: Mathlib/Data/Matroid/Circuit.lean (hunk 7 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:62]: `Dep` and `¬ Indep` aren't quite the same, for specific reasons to do with how matroids are implemented.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 10 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:28]: Is the point that `Circuit` is a noun? The matroid predicates defined so far (`Base`, `Basis`, `Indep`) don't have `Is`, and this aligns with (for example) `LinearIndependent` and `Set.Finite`. 

If so, I don't think there's really a danger of ambiguity, and I'm worried about the cost in keystrokes.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 8 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:83]: It's the same issue; `Dep` and `¬Indep` aren't the same.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 7 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:62]: Golfed slightly. The required rewrite is annoyingly tucked away behind binders.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 8 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:83]: golfed. I added a lemma about `Minimal (¬ M.Indep ·)` to make this easier.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 10 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:28]: Is it recommended that I apply that here? With matroid props, I don't love having it for some and not others.

Comment (jcommelin) [reply Mathlib/Data/Matroid/Circuit.lean:28]: Ok, then let's merge as is. Then you can switch over the entire API in a future PR.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/Data/Matroid/Circuit.lean (hunk 10 above)
Comment (alreadydone) [reply Mathlib/Data/Matroid/Circuit.lean:28]: I think in some cases the current matroid convention makes it hard to guess what a name is about: for example it would be a lot clearer if [Matroid.Restriction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Matroid/Restrict.html#Matroid.Restriction) is renamed to `Matroid.IsRestrict`.
